US03994965
B. guanylureidoacetyl chloride Hydrochloride
To 1 gal. of methylene chloride under a nitrogen atmosphere is added 229.06 g. (1.1 moles) of phosphorous pentachloride, and the resulting solution cooled to 10° C. While maintaining the temperature at 10° C., 160.13 g. (1 mole) of guanylureidoacetic acid is added portionwise, and the resulting reaction mixture allowed to stir at room temperature overnight. The product is filtered, washed with dry methylene chloride and used immediately in subsequent reactions without further purification.

reactant | phosphorous pentachloride | 1.1 moles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | guanylureidoacetic acid | 1 mole | C(N)(=N)NC(NCC(=O)O)=O | C4H8N4O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | guanylureidoacetyl chloride Hydrochloride | Cl.C(N)(=N)NC(NCC(=O)Cl)=O | InChI=1S/C4H7ClN4O2.ClH/c5-2(10)1-8-4(11)9-3(6)7;/h1H2,(H5,6,7,8,9,11);1H
